US08048909B2
Methyl 5-phenyl-4-propyl-1H-pyrrole-3-carboxylate
Using methyl 5-bromo-1-(phenylsulfonyl)-4-propyl-1H-pyrrole-3-carboxylate (3.96 g), phenylboronic acid (2.5 g), tetrakis(triphenylphosphine)palladium (1.79 g) and sodium carbonate (3.28 g), a procedure as in Reference Example 56 was performed to give the title compound as a pale-yellow oil (yield 2.0 g, 80%).

reactant | methyl 5-bromo-1-(phenylsulfonyl)-4-propyl-1H-pyrrole-3-carboxylate | 3.96 g | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OC)CCC | C15H16BrNO4S
reactant | phenylboronic acid | 2.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 3.28 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.79 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 5-phenyl-4-propyl-1H-pyrrole-3-carboxylate | yield 2.0 g, 80% | C1(=CC=CC=C1)C1=C(C(=CN1)C(=O)OC)CCC | C15H17NO2
